US04138581
By catalytic hydrogenation of 12.0 g of 3,4-bis(p-anisoyloxy)phenyl tert-butylaminomethyl ketone hydrochloride in 300 ml.of anhydrous ethyl alcohol in the presence of 2.0 g. of 10 percent palladium-on-charcoal catalyst there was obtained 6.2 g of 3,4-bis(p-anisoyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol hydrochloride as a white crystalline solid which melted at 165° C. (uncorr.). The solubility of this salt in polyethyleneglycol 200 at 25° C. was less than 1 percent. When 1 percent solutions of this salt in each of dimethyl sulfoxide and glycerol formal were diluted with three volumes of water, no precipitate formed.

reactant | 3,4-bis(p-anisoyloxy)phenyl tert-butylaminomethyl ketone hydrochloride | 12.0 g | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(C1=CC=C(C=C1)OC)=O)OC(C1=CC=C(C=C1)OC)=O
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3,4-bis(p-anisoyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol hydrochloride | 6.2 g | Cl.C(C1=CC=C(C=C1)OC)(=O)OC=1C=C(C(CNC(C)(C)C)O)C=CC1OC(C1=CC=C(C=C1)OC)=O | InChI=1S/C28H31NO7.ClH/c1-28(2,3)29-17-23(30)20-10-15-24(35-26(31)18-6-11-21(33-4)12-7-18)25(16-20)36-27(32)19-8-13-22(34-5)14-9-19;/h6-16,23,29-30H,17H2,1-5H3;1H
